US07544701B2
Preparation of 1-[2-(Dimethylamino)ethyl]-1,3-dihydrobenzimidazol-2-one
A mixture of N-[2-(dimethylamino)ethyl]benzene-1,2-diamine (3.11 g, 17.3 mmol) and 1,1-carbonyldiimidazole (CDI) (3.2 g, 19 mmol) are heated in DMF to 110°-120° C. until reaction is complete by TLC, cooled and extracted with EtOAc. The combined extracts are washed with water, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, 94:5:1 CH2Cl2, methanol, concentrated NH4OH as eluent) to give the title compound as a dark purple solid, 3.03 g (85% yield), identified by HPLC and mass spectral analyses.

reactant | N-[2-(dimethylamino)ethyl]benzene-1,2-diamine | 17.3 mmol, 3.11 g | CN(CCNC=1C(=CC=CC1)N)C | C10H17N3
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(Dimethylamino)ethyl]-1,3-dihydrobenzimidazol-2-one | 85% yield | CN(CCN1C(NC2=C1C=CC=C2)=O)C | C11H15N3O
